US08614206B2
3a-Methyl-6-(2-methyl-4-nitro-pyrazol-3-yl)-3,4,5,7,8,8a-hexahydrooxazolo[4,5-d]azepin-2-one
To a solution of benzyl 3a-methyl-2-oxo-3,4,5,7,8,8a-hexahydrooxazolo[4,5-d]azepine-6-carboxylate (305 mg, 1.0 mmol) and 1-methyl-1,4-cyclohexadiene (1.1 mL, 10.00 mmol) in EtOH (10 mL) was added 10% palladium on carbon (53 mg, 0.50 mmol) under nitrogen and the mixture was heated at 60° C. for 2 hr. The mixture was cooled to room temperature, filtered through Celite® and concentrated under reduced pressure. To a solution of the residue (170 mg, 1.00 mmol) in DMSO (5 mL) was added 5-chloro-1-methyl-4-nitro-pyrazole (178 mg, 1.10 mmol) and potassium fluoride (232 mg, 4.00 mmol) and the mixture was heated in the microwave at 110° C. for 4 hr. The reaction was quenched with water (20 mL) and extracted with EtOAc (3×5 mL). The combined organic layers were passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel chromatography (0-5% MeOH/DCM) gave a yellow solid (220 mg, 74% over two steps). The material was combined with another batch to give 350 mg for separation of the diastereoisomers by reverse-phase preparative HPLC. The major diastereomer was isolated as a yellow solid (196 mg, 67% over two steps) 1H NMR (400 MHz, d6-DMSO) δ 8.11 (s, 1H), 7.72 (s, 1H), 4.48 (dd, J=6.6, 2.7 Hz, 1H), 3.74 (s, 3H), 3.10-3.01 (m, 2H), 2.20-1.96 (m, 3H), 1.85 (dd, J=15.2, 7.8 Hz, 1H), 1.32 (s, 3H). Two protons under water peak. LCMS (ES+) m/z 296 (M+1).

reactant | benzyl 3a-methyl-2-oxo-3,4,5,7,8,8a-hexahydrooxazolo[4,5-d]azepine-6-carboxylate | 1.0 mmol, 305 mg | CC12CCN(CCC1OC(N2)=O)C(=O)OCC2=CC=CC=C2 | C16H20N2O4
reactant | 1-methyl-1,4-cyclohexadiene | 10.00 mmol, 1.1 mL | CC1=CCC=CC1 | C7H10
reactant | 5-chloro-1-methyl-4-nitro-pyrazole | 1.10 mmol, 178 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | potassium fluoride | 4.00 mmol, 232 mg | [F-].[K+]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.50 mmol, 53 mg | [Pd] | Pd
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3a-Methyl-6-(2-methyl-4-nitro-pyrazol-3-yl)-3,4,5,7,8,8a-hexahydrooxazolo[4,5-d]azepin-2-one | CC12CCN(CCC1OC(N2)=O)C=2N(N=CC2[N+](=O)[O-])C | C12H17N5O4
